US05294734
80 g (0.57 mol) of sodium 4-hydroxypentanoate and 184.1 g (0.57 mol) of tetrabutylammonium bromide are suspended in 1.2 liters of abs. dimethyl formamide and the suspension is stirred for 15 minutes at room temperature. Then 67.8 ml (0.57 mol) of benzyl bromide are added dropwise and the reaction mixture is stirred for 15 hours at room temperature. The solution so obtained is diluted with water and extracted three times with ether. The organic phases are washed once with water and once with brine. The combined organic phases are dried over MgSO4, filtered and concentrated by evaporation. Distillation of the residue gives 63.1 g of benzyl 4-hydroxypentanoate of b.p. 139°-140° C./2.10-2 torr as a colourless oil.

reactant | sodium 4-hydroxypentanoate | 0.57 mol, 80 g | OC(CCC(=O)[O-])C.[Na+]
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 0.57 mol, 67.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium bromide | 0.57 mol, 184.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | benzyl 4-hydroxypentanoate | 63.1 g | OC(CCC(=O)OCC1=CC=CC=C1)C | C12H16O3
